US05171860
3-Amino-4-ethoxy-5-cyanoisothiazole-1,1dioxide
To a suspension of 3,4-diethoxy-5-cyanoisothiazole-1,1-dioxide (0.85 g, 0.0037 mol) in 40 ml of ethanol was added 2.6 ml of 1.7M ammonia in ethanol (0.0044 mol) with stirring. A clear yellow solution formed and a white precipitate separated in 5 minutes. After 2 hours at room temperature, the title compound (0.61 g, 82%, mp 232°-233.5°) was collected and a sample recrystallized from ethanol to give analytically pure material, mp 236°-238.5°, Rf 0.26 (10% methanol-chloroform, silica gel).

reactant | 3,4-diethoxy-5-cyanoisothiazole-1,1-dioxide | 0.0037 mol, 0.85 g | C(C)OC1=NS(C(=C1OCC)C#N)(=O)=O | C8H10N2O4S
reactant | ammonia | 1.7M, 2.6 ml | N | H3N
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 0.0044 mol | C(C)O | C2H6O
product | 3-Amino-4-ethoxy-5-cyanoisothiazole-1,1dioxide | NC1=NS(C(=C1OCC)C#N)(=O)=O | C6H7N3O3S
